US03951952
d. N,N'-Diethylamidinoacetic Acid Hydrochloride
A solution of 2.2 g. (0.01 mole) of N,N'-diethyl-carboethoxyacetamidine hydrochloride in 60 ml. of 12N hydrochloric acid is converted to the free acid in a manner similar to the procedure of Preparation A-1c.

reactant | N,N'-diethyl-carboethoxyacetamidine hydrochloride | 0.01 mole | Cl.C(C)NC(CC(=O)OCC)=NCC
reactant | hydrochloric acid | 12N | Cl | ClH
product | N,N'-Diethylamidinoacetic Acid Hydrochloride | Cl.C(C)NC(=NCC)CC(=O)O | InChI=1S/C7H14N2O2.ClH/c1-3-8-6(9-4-2)5-7(10)11;/h3-5H2,1-2H3,(H,8,9)(H,10,11);1H
